US04123459
Seventy grams (0.63 mole) maleic anhydride is dissolved in 300 mls n-butanol containing one gram p-toluene sulfonic acid. The solution is refluxed for 16 hours during which the water formed is removed with a Dean Stark trap. The excess butanol is then distilled in vacuo to give a residue of 200 g of dibutyl maleate (structure verified by NMR analysis).

reactant | maleic anhydride | 0.63 mole, Seventy grams | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | water | O | H2O
reactant | n-butanol | 300 mls, one gram | C(CCC)O | C4H10O
product | dibutyl maleate | 200 g | C(\C=C/C(=O)OCCCC)(=O)OCCCC | C12H20O4
